US07812251B2
(h) Preparation of 6-bromo-4,4′-dimethyl-2,2′-bipyridine (8)
Dibromocompound 2,6-dibromo-4-methylpyridine (1 mmol), 2-tributylstannyl-picolines (1 mol) and (Ph3Ph)4Pd (0.01 equiv) were heated under N2 in toluene (50 mL) for 16 h. Upon cooling to room temperature aqueous saturated NH4Cl solution (20 mL) was added. The mixture was stirred for further 30 min and then filtered over Celite. The precipitate was washed with CH2Cl2 (50 mL) and the organic phase was separated. The aqueous phase was extracted with toluene. The combined organic phases were dried (MgSO4) and the solvent was removed. Concentrated HCl (30 mL) was added to the residue followed by extracting with CH2Cl2. The aqueous phase was cautiously neutralized by solid NaOH. The product was then extracted with CH2Cl2 and dried. The solvent was removed and the product purified by chromatography on silica gel with CH2Cl2/hexane (1:2) as eluent. Yield: 25%. Anal. C12H11BrN2: Calcd: C, 54.77; H, 4.21; N, 10.65. Found: C, 54.54; H, 4.30; N, 10.45. MS (ESIMS): m/z: 262.0.

reactant | 2,6-dibromo-4-methylpyridine | 1 mmol | BrC1=NC(=CC(=C1)C)Br | C6H5Br2N
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-4,4′-dimethyl-2,2′-bipyridine | Yield: 25% | BrC1=CC(=CC(=N1)C1=NC=CC(=C1)C)C | C12H11BrN2
